US07504419B2
Preperative Purification of Stereoisomers of 4-(2,3-dimethylphenoxy)-3-hydroxypiperidine
Retention times were as follows: (3S,4R)-4-(2,3-dimethylphenyl)-3-hydroxypiperidine, 14.5 minutes; (3R,4S)-4-(2,3-dimethylphenyl)-3-hydroxypiperidine, 16.5 minutes; (3R,4R)-4-(2,3-dimethylphenyl)-3-hydroxypiperidine, 15 minutes; and nM (3S,4S)-4-(2,3-dimethylphenyl)-3-hydroxypiperidine, 17 minutes. The identification of each compound was made by optical rotation.

reactant | (3S,4R)-4-(2,3-dimethylphenyl)-3-hydroxypiperidine | CC1=C(C=CC=C1C)[C@@H]1[C@@H](CNCC1)O | C13H19NO
reactant | (3R,4S)-4-(2,3-dimethylphenyl)-3-hydroxypiperidine | CC1=C(C=CC=C1C)[C@H]1[C@H](CNCC1)O | C13H19NO
reactant | (3R,4R)-4-(2,3-dimethylphenyl)-3-hydroxypiperidine | CC1=C(C=CC=C1C)[C@@H]1[C@H](CNCC1)O | C13H19NO
reactant | (3S,4S)-4-(2,3-dimethylphenyl)-3-hydroxypiperidine | CC1=C(C=CC=C1C)[C@H]1[C@@H](CNCC1)O | C13H19NO
product | 4-(2,3-dimethylphenoxy)-3-hydroxypiperidine | CC1=C(OC2C(CNCC2)O)C=CC=C1C | C13H19NO2
